US07932394B2
126 mg of potassium nitrate was added to a trifluoroacetic acid (3 ml) solution of 117 mg of N-{4-{[6-(5-methyl-1,2,4-oxadiazol-3-yl)pyridin-3-yl]oxy}-2-[(2-oxopyrrolidin-1-yl)methyl]phenyl}pyridine-2-carboxamide, and stirred under heat at 80° C. for 7 hours. Trifluoroacetic acid was evaporated away under reduced pressure, then chloroform was added to the residue, and washed with aqueous saturated sodium hydrogencarbonate solution. The organic layer was dried, and the solvent was evaporated away under reduced pressure to obtain 122 mg of N-{4-{[6-(5-methyl-1,2,4-oxadiazol-3-yl)pyridin-3-yl]oxy}-2-nitro-6-[(2-oxopyrrolidin-1-yl)methyl]phenyl}pyridine-2-carboxamide as a brown oil.

reactant | potassium nitrate | 126 mg | [N+](=O)([O-])[O-].[K+]
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-{4-{[6-(5-methyl-1,2,4-oxadiazol-3-yl)pyridin-3-yl]oxy}-2-[(2-oxopyrrolidin-1-yl)methyl]phenyl}pyridine-2-carboxamide | 117 mg | CC1=NC(=NO1)C1=CC=C(C=N1)OC1=CC(=C(C=C1)NC(=O)C1=NC=CC=C1)CN1C(CCC1)=O | C25H22N6O4
product | N-{4-{[6-(5-methyl-1,2,4-oxadiazol-3-yl)pyridin-3-yl]oxy}-2-nitro-6-[(2-oxopyrrolidin-1-yl)methyl]phenyl}pyridine-2-carboxamide | 122 mg | CC1=NC(=NO1)C1=CC=C(C=N1)OC1=CC(=C(C(=C1)CN1C(CCC1)=O)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C25H21N7O6
